US05389669
Preparation of 4-Bromo-2-(p-chlorophenyl)-1-(ethoxymethyl)-5-(trifluoromethyl)pyrrole-3-carboxylic acid
A mixture of methyl 4-bromo-2-(p-chlorophenyl)-1-(ethoxymethyl)-5-(trifluoromethyl)pyrrole-3-carboxylate (13.1 g) and potassium hydroxide (3.12 g, 85%, 48 mmol) is stirred at room temperature for 20 hours, stirred at reflux for 2 hours, diluted with water, washed with diethyl ether, acidified to pH 4 with 1N hydrochloric acid and filtered to obtain a solid. The solid is washed with water and petroleum ether and dried to give the title product as a white solid (6.45 g) which is identified by 1H NMR spectral analysis.

reactant | methyl 4-bromo-2-(p-chlorophenyl)-1-(ethoxymethyl)-5-(trifluoromethyl)pyrrole-3-carboxylate | 13.1 g | BrC=1C(=C(N(C1C(F)(F)F)COCC)C1=CC=C(C=C1)Cl)C(=O)OC | C16H14BrClF3NO3
reactant | potassium hydroxide | 48 mmol, 3.12 g | [OH-].[K+]
solvent | water | O | H2O
product | 4-Bromo-2-(p-chlorophenyl)-1-(ethoxymethyl)-5-(trifluoromethyl)pyrrole-3-carboxylic acid | 6.45 g | BrC=1C(=C(N(C1C(F)(F)F)COCC)C1=CC=C(C=C1)Cl)C(=O)O | C15H12BrClF3NO3
